US06794397B2
5,6-Dichloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 5,6-dichloronicotinic acid and 4-methoxy-2-nitroaniline and was obtained as a yellow solid as described in Example 15. 1H NMR (DMSO-d6): 10.85 (bs, 1H), 8.88 (d, J=2.4, 1H), 8.59 (d, J=2.4, 1H), 7.58-7.54 (m, 2H), 7.39-7.35 (m, 1H), 3.87 (s, 3H).

reactant | 5,6-dichloronicotinic acid | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
product | 5,6-Dichloro-N-(4-methoxy-2-nitrophenyl)-3-pyridinecarboxamide | ClC=1C=C(C=NC1Cl)C(=O)NC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C13H9Cl2N3O4
